US04539410
Thionyl chloride (0.36 ml) is combined with 1-(6-hydroxyhexyl)-3-methyl-2-(1-imidazolyl)indole (1.3 g) at 0°. The mixture is then stirred at room temperature for 1 hour. Saturated aqueous sodium bicarbonate is added and the mixture is extracted with dichloromethane. The extract is washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Concentration to dryness and purification by chromatography gives 1-(6-chlorohexyl)-3-methyl-2-(1-imidazolyl)indole.

reactant | Thionyl chloride | 0.36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(6-hydroxyhexyl)-3-methyl-2-(1-imidazolyl)indole | 1.3 g | OCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C18H23N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(6-chlorohexyl)-3-methyl-2-(1-imidazolyl)indole | ClCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C18H22ClN3
